US08629270B2
tert-Butyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate
Benzoyl isothiocyanate (81.37 μL, 603.33 mmol) is added to a 0° C. solution of tert-butyl 3-amino-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate (0.168 g, 574.60 mmol) in tetrahydrofuran (2.3 mL). The mixture is warmed to room temperature and stirred overnight. Benzoyl isothiocyanate (15.50 μL, 114.92 mmol) is added and the mixture is stirred for 2 hr. Sodium bicarbonate solution and dichloromethane are added and the aqueous layer is separated, the aqueous mixture is extracted with dichloromethane (3×25 mL), dried over sodium sulfate, filtered, and concentrated to dryness. The crude product is purified via silica gel chromatography eluting with 0-100% ethyl acetate/hexanes to give the title compound (0.178 g, 68%). ES/MS (m/e): 454.3 (M−1).

reactant | Benzoyl isothiocyanate | 603.33 mmol, 81.37 μL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | tert-butyl 3-amino-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate | 574.60 mmol, 0.168 g | NC1(CN(CC1CO)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H24N2O3
reactant | Benzoyl isothiocyanate | 114.92 mmol, 15.50 μL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate | 0.178 g, 68% | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H29N3O4S
